US05663200
49e) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2,4-dimethoxyphenyl)methyl]hexanoic acid
A solution of 1.58 g (3.47 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(2,4-dimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one in 56 ml of ethylene glycol dimethyl ether and 28.2 ml of water is treated, at RT, with 13.87 ml of a 1M solution of LiOH in water, and this mixture is stirred for 1.75 h. After that, the reaction mixture is diluted with ethyl acetate and a little THF and the whole is washed firstly with a mixture consisting of 170.6 ml of sat. ammonium chloride solution and 14.25 ml of 10% citric acid solution (both being cold) and then with saline. The combined aqueous phases are reextracted with ethyl acetate. The combined organic phases are dried over Na2SO4 and evaporated on a RE at about 30° C. The residue, which is the title compound, is triturated with hexane and filtered off with suction. M.p.: 144°-145° C. TLC Rf (D)=at the start. FAB-MS (M+H)+ =474. HPLC TRet =14.34 min (gradient II). IR(KBr)=u.a. 3420, 3350, 2818, 1686, 1518 and 1508 cm-1. 1H-NMR(CD3OD)=inter alia 7.30-7.09/m (5H); 6.94/d (1H); 6.47/d (1H); 6.37/dxd (1H); 3,78 and 3.75/each s (each 3H); 1.33/s (9H).

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(2,4-dimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one | 3.47 mmol, 1.58 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=C(C=C(C=C1)OC)OC | C26H33NO6
reactant | LiOH | [Li+].[OH-]
reactant | ethylene glycol dimethyl ether | 56 ml | COCCOC | C4H10O2
solvent | water | 28.2 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2,4-dimethoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C=C(C=C1)OC)OC)O)CC1=CC=CC=C1 | C26H35NO7
